2190-01-07 07:57:00 Physician Resident Progress Note
Chief Complaint: hemoptysis in setting of advanced non-small cell lung
   CA
   [**05**] Hour Events:
   admitted
   initially administered maint fluids but pt began having slight drop in
   O2 sat, stopped maint fluids
   History obtained from Medical records
   Patient unable to provide history: Language [**Last Name (LF) **], [**First Name3 (LF) 124**] get
   interpreter later in day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2190-1-7**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 111 (111 - 122) bpm
   BP: 104/61(72) {97/58(67) - 150/83(89)} mmHg
   RR: 21 (20 - 40) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             543 mL
   PO:
             TF:
   IVF:
   543 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    190 mL
   Urine:
                                                                    200 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Conjunctiva pale
   Lymphatic: Cervical adenopathy, as described, right sided ant c lymph
   node
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Diminished: v poor air movement throughout right lung
   field, particularly at base, Rhonchorous: )
   Extremities: Right: Absent, Left: Absent, Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   317 K/uL
   10.1 g/dL
   125 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.3 mEq/L
   11 mg/dL
   102 mEq/L
   142 mEq/L
   31.5 %
   7.0 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
   WBC
   7.0
   Hct
   31.5
   Plt
   317
   Cr
   0.5
   Glucose
   125
   Other labs: PT / PTT / INR:14.8/24.5/1.3, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:82.9 %, Lymph:12.0 %, Mono:4.7 %,
   Eos:0.2 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   See admission note for complete original plan: This is a post-call
   addendum.
   ASSESSMENT AND PLAN
   71 year old woman with non-small cell lung CA who comes with complaints
   of hemoptysis and ongoing cough. Echocardiogram during rounds showed
   tamponade. Pericardiocentesis to be scheduled this AM.
   PERICARDIAL EFFUSION
   Pericardiocentesis later today. Consider bronchoscopy, other care after
   that.
   HEMOPTYSIS
   CT scan from outside hospital is a somewhat bleak picture and offers
   little hope that simple interventions will yield major gains for
   hemoptysis and cough.
   - bronchoscopy possible after pericardiocentesis
   - transfuse for significant (>2) drops in Hct or goal of 25
   LUNG CA
   Based on oncology consult note from outside hospital, and CT scan
   viewed from OSH, it is highly unlikely that further chemotherapy,
   radiation, etc, will have any significant impact on pt
s lung CA.
   HYPERTENSION
   Pt has past diagnosis of hypertension. Holding diltiazem as pt needs
   rapid heart rate for hemodynamic support.
   GOALS OF CARE
   Had lengthy family meeting after rounds today. Informed pt
s children
   of very small chances on ventilator or with resuscitation. Lengthy
   conversation of goals of care. Family clear that they want
   pericardiocentesis but in the somewhat longer run want DNR/DNI. This
   can be revisited after pericardiocentesis for which she should be full
   code, and in which benefits substantially outweigh risks.
   ICU Care
   Nutrition: NPO for procedure; regular diet after that
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-1-6**] 08:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2190-01-07 09:33:00 Physician Attending Progress Note
Chief Complaint: Hemptysis
   HPI:
   71 year old woman with PMH [**Hospital 3192**] transferred from OSH withpericardial
   effusion and hemopttysis. S/P multiple course of xrt and chemo
   therapty. One month history of sub-massive hemoptysis. 4 days prior to
   admit had increased amount of bleeding. OSH imaging with diffuse known
   lung disease. Echo with pericardial effusion and reported RV collapse.
   Tachycardiac on presentation but with SBP's in the 90's.
   24 Hour Events:
   Lung Cancer
   hTN
   aNXIETY
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Cough
   Flowsheet Data as of  [**2190-1-7**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 111 (111 - 122) bpm
   BP: 104/61(72) {97/58(67) - 150/83(89)} mmHg
   RR: 21 (20 - 40) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             543 mL
   PO:
             TF:
   IVF:
   543 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    190 mL
   Urine:
                                                                    200 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Distant), Elevated JVP
   Pulsus [**11-8**].
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: On Right)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   317 K/uL
   125 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.3 mEq/L
   11 mg/dL
   102 mEq/L
   142 mEq/L
   31.5 %
   7.0 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
   WBC
   7.0
   Hct
   31.5
   Plt
   317
   Cr
   0.5
   Glucose
   125
   Other labs: PT / PTT / INR:14.8/24.5/1.3, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:82.9 %, Lymph:12.0 %, Mono:4.7 %,
   Eos:0.2 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   71 year old with NSCLC
          Effusion - tamponade. TTE this morning. IVF for hemodynamic
   support. Plan for pericardiocentesis.
          Hemoptysis - will review outside contrast CT with radiology,
   particulary with eye toward PE, though she could not be anticoagulated.
          Goals of Care - Clearly very poor prognosis. Will need to
   speak with family and patien today about code status and goals. She
   remains at risk  for hemodynamic collapse and there is no utility in
   ACLS. Will hold family meeting today.
          PNA - air bronchograms on CXR. Check sputum, empiric
   coverage with levofloxacin for now.
   Further plans as per resident note
   ICU Care
   Nutrition:
   Comments: NPO pending procedures.
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-1-6**] 08:38 PM
   Prophylaxis:
   DVT: Boots(Not on heparin [**2-28**] hemoptysis)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: family meeting today.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   See addendum note below.

2190-01-08 07:27:00 Physician Resident Progress Note
Chief Complaint: pericardial tamponade, hemoptysis
   24 Hour Events:
   TTE showed pericardial tamponade
   s/p pericardial drain -- draining clots and 90 ml serosanguanous
   drainage
   Pericardial Fluid: bloody, gram stain negative
   s/p RV drain, placed instead of in pericadium, removed and closed with
   angioseal
   On amio drip for tachycardia for SVT during procedure, plan to convert
   to oral load today
 O/N patient went in to afib 140s and briefly
   became hemodynamically unstable and developed respiratory compromise.
   Patient treated with 40 mg lasix *2 for fluid overload post pericardial
   drain procedure.
   Hypertensive s/p procedure -- settled SBPs 130s, no treatment initiated
   Potassium repleted
   Radiology reviewed OSH CT: no PE, mass compressing right bronchus
   intermedius, mod pericardial effusion, tumor invading right chest wall,
   no pericardial fat between pericardium and tumor. L base with ground
   glass.
   History obtained from Patient, Family / Friend, [**Hospital 961**] Medical
   records
   Allergies:
   History obtained from Patient, Family / Friend, [**Hospital 961**] Medical
   recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.72 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2190-1-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-1-8**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 120 (114 - 129) bpm
   BP: 133/79(105) {104/63(73) - 142/104(111)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    598 mL
                                                                    790 mL
   PO:
             660 mL
   TF:
   IVF:
                                                                    598 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  4,220 mL
                                                                    655 mL
   Urine:
                                                                  4,220 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,622 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% on 5LNC
   ABG: 7.35/59/121/37/5
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), pericardial
   drain in place
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Crackles : at bases, Bronchial: , Rhonchorous: throughout right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   339 K/uL
   14.3 g/dL
   131 mg/dL
   0.5 mg/dL
   37 mEq/L
   2.8 mEq/L
   12 mg/dL
   100 mEq/L
   146 mEq/L
   40.5 %
   9.5 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
                            [**2190-1-7**]  03:21 PM
                            [**2190-1-7**]  04:39 PM
                            [**2190-1-7**]  10:20 PM
                            [**2190-1-8**]  02:56 AM
   WBC
   7.0
   8.6
   8.9
   9.5
   Hct
   31.5
   31.7
   42.4
   40.5
   Plt
   [**Telephone/Fax (3) 3208**]39
   Cr
   0.5
   0.4
   0.5
   TCO2
   34
   Glucose
   125
   95
   131
   Other labs: PT / PTT / INR:16.7/23.4/1.5, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:84.0 %, Lymph:10.5 %, Mono:4.9 %,
   Eos:0.3 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   71 year old woman with non-small cell lung CA who comes with complaints
   of hemoptysis, ongoing cough and is discovered to be in pericardial
   tamponade.
   PERICARDIAL TAMPONADE
   Evidence of RV collapse on ECHO. S/p pericardial drain placement
   complicated by cannulization of right ventricule. Patient is s/p
   angioseal of right ventricule. During procedure patient went into
   SVT/Afib and was placed on an amiodarone drip. Given subsequent HD
   compromise with afib, patient will be maintained on amiodarone
   - amiodarone 600mg PO load today, then turn off drip. Tomorrow [**1-9**]
   start amio 300 mg daily.
   - holding home diltiazem b/c sbps in 130s and patient stable
   HEMOPTYSIS
   CT scan from outside hospital is a somewhat bleak picture and offers
   little hope that simple interventions will yield major gains for
   hemoptysis and cough.
   - consider delaying bronchoscopy to outpatient given patient with scant
   hemoptysis while in hospital, given recent procedure
   - transfuse HCT <25
   LUNG CA
   Based on oncology consult note from outside hospital, and CT scan
   viewed from OSH, it is highly unlikely that further chemotherapy,
   radiation, etc, will have any significant impact on pt
s lung CA.
   - consulted palliative care
   HYPERTENSION
   -          given life expectancy benign hypertension is not a concern,
   holding diltiazem
   H/O ATRIAL FIBRILLATION (AFIB)
   Into atrial fibrillation during procedure, on amio drip and in sinus
   tach
   -          convert to PO amiodarone, stop drip
   ICU Care
   Nutrition: PO regular diet
   Glycemic Control:  not needed
   Lines:
   22 Gauge - [**2190-1-8**] 12:43 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  not intubated
   Need for restraints reviewed
   Communication: Patient discussed on interdisciplinary rounds
   Code status: DNR / DNI
   Disposition:ICU

2190-01-08 08:59:00 Physician Attending Progress Note
Chief Complaint: Hemoptysis, dyspnea
   HPI:
   71 year old woman with advanced NSCLC, a/w pericardial effusion c/b
   tamponade. Now s/p pericardiocentesis c/b  RV puncture.
   24 Hour Events:
   TTE - RV collapse
   Pericardiocentesis - complications as above. Catheter drained
   ~90cc/day.
   Afib with RVR peri-procedure - now on amio.
   40mg lasix x 2 yesterday for increasing O2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.72 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2190-1-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-8**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 117 (114 - 129) bpm
   BP: 111/71(80) {104/63(73) - 142/86(105)} mmHg
   RR: 26 (19 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    598 mL
                                                                    815 mL
   PO:
             660 mL
   TF:
   IVF:
                                                                    598 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  4,220 mL
                                                                    655 mL
   Urine:
                                                                  4,220 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,622 mL
                                                                    160 mL
   Respiratory support
   SpO2: 93%
   ABG: 7.35/59/121/37/5
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), JVP wnl
   Pericardial drain in place
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   14.3 g/dL
   339 K/uL
   131 mg/dL
   0.5 mg/dL
   37 mEq/L
   2.8 mEq/L
   12 mg/dL
   100 mEq/L
   146 mEq/L
   40.5 %
   9.5 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
                            [**2190-1-7**]  03:21 PM
                            [**2190-1-7**]  04:39 PM
                            [**2190-1-7**]  10:20 PM
                            [**2190-1-8**]  02:56 AM
   WBC
   7.0
   8.6
   8.9
   9.5
   Hct
   31.5
   31.7
   42.4
   40.5
   Plt
   [**Telephone/Fax (3) 3208**]39
   Cr
   0.5
   0.4
   0.5
   TCO2
   34
   Glucose
   125
   95
   131
   Other labs: PT / PTT / INR:16.7/23.4/1.5, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:84.0 %, Lymph:10.5 %, Mono:4.9 %,
   Eos:0.3 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   71 year old woman with hemoptysis, advanced NSCLC c/b pericardial
   invasion, impingement on mainstem bronchus, now pericardial tamponade
   now s/p pericardiocentesis c/b RV puncture. I agree with a/p as noted
   in resident note. Briefly, she is hemodynamicaly intact post drainage.
   Some afib which has responded to amiodorone and increased O2
   requirement responsive to lasix. Had planed on IP procedure today for
   possible palliation of endobronchial sources of hemoptysis and possible
   to airway stent. Appears stable now, but will discuss with family and
   IP re: possibility of additional procedure. Stat echo this morning to
   assess effusion. She has a very grim short term prognosis and family's
   goal remains to get her home. Palliative care to see today. Se is
   DNR/DNI and would hope for discharge home with hospice in the next
   24-48 hours. Remains on levaquin for possible PNA in LLL.
   ICU Care
   Nutrition: NPO for possible procedure
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-1-8**] 12:43 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP: not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   ATTENDING ADDENDUM:
   I saw and examined the patient, and was physically present with the ICU
   resident and fellow for key portions of the services provided.  I agree
   with their notes above, including assessment and plan
   Key Points:
          Hemoptysis improved today
          Dr [**Last Name (STitle) 3217**] met with family to discuss hospice, palliative care
   options
          Afib with RVR, now on amiodarone and in sinus tach with
   narrow complex
          Pericardial pigtail drained 90cc overnight, no e/o tamponade
   on echo (prelimary read)
          I met with pt
s daughters [**Name (NI) 3179**] and [**Name2 (NI) 8**], in presence of Dr
   [**Last Name (STitle) 901**] and Dr [**Last Name (STitle) 3012**], to discuss the risks and benefits of the rigid
   bronchoscopy with APC and bronchial artery embolization. I am concerned
   that if the primary goal is for Ms [**Known lastname 3180**] to go home, then the potential
   benefit of reducing hemoptysis, which has already improved, may be
   outweighed by the possibility of cardiac arrhythmia or massive
   hemoptysis, which would obviously preclude her from going home with her
   family. I discussed the procedure and potential complications and
   answered their questions. For now I think we will hold off on the rigid
   bronch and will discuss possibility of embolization with IR
          Blood cx with 2 bottles growing GPC
   Overall I am very concerned that the longer Ms [**Known lastname 3180**] stays here the less
   likely it is that she will be able to go home. She still has a pigtail
   in her pericardial space at this time, but basically is stable though
   with tachycardia and hypoxemia, 92-94% on 4L. I will be in further
   discussion with the family regarding goals of care and options.
   Critically ill
   Time spent: 60 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2190-1-8**] 14:27 ------

2190-01-09 07:43:00 Physician Attending Progress Note
Chief Complaint: dyspnea, hemoptysis
   HPI:
   71 year old woman with advanced NSCLC, a/w pericardial effusion c/b
   tamponade. Now s/p pericardiocentesis c/b  RV puncture.
   24 Hour Events:
 BLOOD CULTURED - At [**2190-1-9**] 06:02 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2190-1-8**] 09:40 AM
   Morphine Sulfate - [**2190-1-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-9**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 125 (113 - 126) bpm
   BP: 127/80(91) {111/70(79) - 134/86(96)} mmHg
   RR: 22 (21 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    956 mL
                                                                    240 mL
   PO:
                                                                    660 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    255 mL
   Urine:
                                                                  1,360 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                      5 mL
   Balance:
                                                                   -444 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.1 g/dL
   332 K/uL
   138 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   18 mg/dL
   103 mEq/L
   146 mEq/L
   41.8 %
   10.9 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
                            [**2190-1-7**]  03:21 PM
                            [**2190-1-7**]  04:39 PM
                            [**2190-1-7**]  10:20 PM
                            [**2190-1-8**]  02:56 AM
                            [**2190-1-8**]  11:42 AM
                            [**2190-1-8**]  05:06 PM
                            [**2190-1-9**]  05:27 AM
   WBC
   7.0
   8.6
   8.9
   9.5
   10.9
   Hct
   31.5
   31.7
   42.4
   40.5
   41.2
   41.8
   Plt
   [**Telephone/Fax (3) 3208**]39
   332
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.7
   TCO2
   34
   Glucose
   125
   95
   131
   151
   135
   138
   Other labs: PT / PTT / INR:14.9/23.9/1.3, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:84.0 %, Lymph:10.5 %, Mono:4.9 %,
   Eos:0.3 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:9.1 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   71 year old woman with hemoptysis, advanced NSCLC c/b pericardial
   invasion, impingement on mainstem bronchus, now pericardial tamponade
   now s/p pericardiocentesis c/b RV puncture. I agree with a/p as noted
   in resident note. Briefly, she is hemodynamicaly intact post drainage.
   Some afib which has responded to amiodorone and increased O2
   requirement responsive to lasix. Had planed on IP procedure today for
   possible palliation of endobronchial sources of hemoptysis and possible
   to airway stent. Appears stable now, but will discuss with family and
   IP re: possibility of additional procedure. Stat echo this morning to
   assess effusion. She has a very grim short term prognosis and family's
   goal remains to get her home. Palliative care to see today. Se is
   DNR/DNI and would hope for discharge home with hospice in the next
   24-48 hours. Remains on levaquin for possible PNA in LLL.
   Key Points:
          Hemoptysis improved today
          Dr [**Last Name (STitle) 3217**] met with family to discuss hospice, palliative care
   options
          Afib with RVR, now on amiodarone and in sinus tach with
   narrow complex
          Pericardial pigtail drained 90cc overnight, no e/o tamponade
   on echo (prelimary read)
          I met with pt
s daughters [**Name (NI) 3179**] and [**Name2 (NI) 8**], in presence of Dr
   [**Last Name (STitle) 901**] and Dr [**Last Name (STitle) 3012**], to discuss the risks and benefits of the rigid
   bronchoscopy with APC and bronchial artery embolization. I am concerned
   that if the primary goal is for Ms [**Known lastname 3180**] to go home, then the potential
   benefit of reducing hemoptysis, which has already improved, may be
   outweighed by the possibility of cardiac arrhythmia or massive
   hemoptysis, which would obviously preclude her from going home with her
   family. I discussed the procedure and potential complications and
   answered their questions. For now I think we will hold off on the rigid
   bronch and will discuss possibility of embolization with IR
          Blood cx with 2 bottles growing GPC
   Overall I am very concerned that the longer Ms [**Known lastname 3180**] stays here the less
   likely it is that she will be able to go home. She still has a pigtail
   in her pericardial space at this time, but basically is stable though
   with tachycardia and hypoxemia, 92-94% on 4L. I will be in further
   discussion with the family regarding goals of care and options.
   Critically ill
   Time spent: 60 minutes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-1-7**] 09:52 PM
   20 Gauge - [**2190-1-8**] 08:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2190-01-09 08:00:00 Physician Resident Progress Note
Chief Complaint: pericardial effusion and hemoptysis in setting of
   non-small cell lung CA
   [**05**] Hour Events:
 BLOOD CULTURED - At [**2190-1-9**] 06:02 AM
   - TTE showed compression of right atrium, likely due to clot,
   small-to-moderate pericardial effusion
   - Minimal return from pericardial drain
   - Went to IR for successful embolization of right bronchial artery - if
   continued hemopysis would consider embolization of intercostal artery
   that appears to be supplying the tumor
   - 2/2 blood cultures from [**1-7**] positive for gram positive cocci ->
   started on vancomycin
   - Discontinued amiodarone gtt with amiodarone 600 mg PO load as per
   cardiology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2190-1-8**] 09:40 AM
   Morphine Sulfate - [**2190-1-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-9**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 125 (113 - 126) bpm
   BP: 127/80(91) {111/70(79) - 134/86(96)} mmHg
   RR: 22 (21 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    956 mL
                                                                    240 mL
   PO:
                                                                    660 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    255 mL
   Urine:
                                                                  1,360 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                      5 mL
   Balance:
                                                                   -444 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Distant),
   No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: bilaterally, with air movement and coarse crackles on
   left, Absent : bronchial sounds and amplification of heart beat on
   right)
   Abdominal: Soft, Distended
   Extremities: Right: Absent, Left: Absent, Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   332 K/uL
   14.1 g/dL
   138 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   18 mg/dL
   103 mEq/L
   146 mEq/L
   41.8 %
   10.9 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
                            [**2190-1-7**]  03:21 PM
                            [**2190-1-7**]  04:39 PM
                            [**2190-1-7**]  10:20 PM
                            [**2190-1-8**]  02:56 AM
                            [**2190-1-8**]  11:42 AM
                            [**2190-1-8**]  05:06 PM
                            [**2190-1-9**]  05:27 AM
   WBC
   7.0
   8.6
   8.9
   9.5
   10.9
   Hct
   31.5
   31.7
   42.4
   40.5
   41.2
   41.8
   Plt
   [**Telephone/Fax (3) 3208**]39
   332
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.7
   TCO2
   34
   Glucose
   125
   95
   131
   151
   135
   138
   Other labs: PT / PTT / INR:14.9/23.9/1.3, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:84.0 %, Lymph:10.5 %, Mono:4.9 %,
   Eos:0.3 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:9.1 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O HEART DISEASE, OTHER
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 .H/O ATRIAL FIBRILLATION (AFIB)
 HEMOPTYSIS
 CANCER (MALIGNANT NEOPLASM), LUNG
   71 year old woman with non-small cell lung CA who comes with complaints
   of hemoptysis, ongoing cough, transferred from OSH with diagnosis of
   pericardial tamponade.
   PERICARDIAL TAMPONADE
   Evidence of RV collapse on ECHO. S/p pericardial drain placement
   complicated by cannulization of right ventricle. Patient is s/p
   angioseal of right ventricle. During procedure patient went into
   SVT/Afib and was placed on an amiodarone drip. Given subsequent HD
   compromise with afib, patient will be maintained on amiodarone
   - Starting amio 300 mg daily.
   - holding home diltiazem b/c sbps in 130s and patient stable
   - f/u cards recs
   HEMOPTYSIS
   CT scan from outside hospital is a somewhat bleak picture and offers
   little hope that simple interventions will yield major gains for
   hemoptysis and cough.
   - s/p
   - transfuse HCT <25
   LUNG CA
   Based on oncology consult note from outside hospital, and CT scan
   viewed from OSH, it is highly unlikely that further chemotherapy,
   radiation, etc, will have any significant impact on pt
s lung CA.
   - consulted palliative care which is helping to set up potential
   hospice with Cantonese-speaking providers
   HYPERNATREMIA/HEMOCONCENTRATION
   Likely dehydrated. Writing for AM fluids.
   HYPERTENSION
   -          given life expectancy benign hypertension is not a concern,
   holding diltiazem
   ICU Care
   Nutrition: PO regular diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-1-7**] 09:52 PM
   20 Gauge - [**2190-1-8**] 08:12 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Will meet with family today to discuss
   current status, goals of care, planning for discharge to home
   Code status: DNR/DNI
   Disposition: ICU for now, home when echo shows effusion to be stable
   and services are set up

2190-01-10 07:19:00 Physician Resident Progress Note
Chief Complaint: hemoptysis
   24 Hour Events:
 MIDLINE - START [**2190-1-9**] 09:35 PM
 PERICARDIAL DRAIN REMOVED - At [**2190-1-10**] 01:30 AM
   Plan for home with hospice when arranged, need cantonese speaking
   hospice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-1-9**] 08:30 AM
   Levofloxacin
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-1-9**] 09:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-1-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 127 (102 - 130) bpm
   BP: 119/73(84) {89/13(46) - 131/75(84)} mmHg
   RR: 23 (18 - 42) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,830 mL
                                                                    130 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,230 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    155 mL
   Urine:
                                                                    760 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  1,060 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   NC 3.5 L
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Crackles : at bases, Right lung with almost no breath sounds, in very
   upper airways maybe bronchial, left lung clear: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   317 K/uL
   13.0 g/dL
   82 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   10 mg/dL
   102 mEq/L
   138 mEq/L
   37.5 %
   10.7 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
                            [**2190-1-7**]  03:21 PM
                            [**2190-1-7**]  04:39 PM
                            [**2190-1-7**]  10:20 PM
                            [**2190-1-8**]  02:56 AM
                            [**2190-1-8**]  11:42 AM
                            [**2190-1-8**]  05:06 PM
                            [**2190-1-9**]  05:27 AM
                            [**2190-1-10**]  02:46 AM
   WBC
   7.0
   8.6
   8.9
   9.5
   10.9
   10.7
   Hct
   31.5
   31.7
   42.4
   40.5
   41.2
   41.8
   37.5
   Plt
   [**Telephone/Fax (2) 3241**]
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.7
   0.5
   TCO2
   34
   Glucose
   125
   95
   131
   151
   135
   138
   82
   Other labs: PT / PTT / INR:14.9/23.9/1.3, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:84.0 %, Lymph:10.5 %, Mono:4.9 %,
   Eos:0.3 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   CXR: no aeration right lung, trachea deviated to right, left lung clear
   without effusion
   [**1-7**]
 coag neg staph
   No growth to date in other cultures including pericardial drain iv tip
   Assessment and Plan
   71 year old woman with non-small cell lung CA who comes with complaints
   of hemoptysis, ongoing cough, transferred from OSH with diagnosis of
   pericardial tamponade.
   PERICARDIAL TAMPONADE
   Evidence of RV collapse on ECHO. S/p pericardial drain placement
   complicated by cannulization of right ventricle. Patient is s/p
   angioseal of right ventricle. During procedure patient went into
   SVT/Afib and was placed on an amiodarone drip. Given subsequent HD
   compromise with afib, patient will be maintained on amiodarone.
   - Starting amio 300 mg daily
 will discuss with cards.
   - holding home diltiazem b/c sbps in 130s and patient stable
   - f/u cards recs
   - repeat ECHO today
   HEMOPTYSIS
   CT scan from outside hospital is a somewhat bleak picture and offers
   little hope that simple interventions will yield major gains for
   hemoptysis and cough.  Patient underwent palliative rigid bronchoscopy
   and IR embolization of right brachial artery that was potential cause
   for hemoptysis.
   - monitor hemoptysis, which is mild at this time
   - transfuse HCT <25
   LUNG CA
   Based on oncology consult note from outside hospital, and CT scan
   viewed from OSH, it is highly unlikely that further chemotherapy,
   radiation, etc, will have any significant impact on pt
s lung CA.
   - consulted palliative care which is helping to set up potential
   hospice with Cantonese-speaking providers
   - Levofloxacin day [**5-5**] for empiric pneumonia coverage
   - On prednisone, unclear reason, concern for adrenal mets.
 decreased
   from 20 mg to 5 mg
   POSITIVE BLOOD CULTURES: no clear fevers,
 coag neg staph, if cultures
   remains negative 48 hours then d/c vancomycin.
   HYPERNATREMIA/HEMOCONCENTRATION: improved with fluids
   HYPERTENSION
   -          given life expectancy benign hypertension is not a concern,
   holding diltiazem
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   Midline - [**2190-1-9**] 09:35 PM
 to pull if vancomycin not needed AND
   not needed for hospice
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: not intubated
   Communication:  patient discussed on interdisciplinary rounds
   Code status: DNR / DNI
   Disposition:ICU, plan for home with hospice and O2 on Monday

2190-01-10 07:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo F w/advanced NSCLC a/w hemoptysis and pericardial effusion c/b
   tamponade. Now s/p pericardiocentesis ([**1-7**]) c/b RV puncture and
   peri-procedure atrial fibrillation.  TTE post procedure w/compression
   of RA, thought [**2-28**] clot and small-mod pericardial effusion.
   24 Hour Events:
   Rpt TTE w/small pericardial effusion c/w organizing clot.  Pericardial
   drain removed.
   Midline placed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-1-9**] 08:30 AM
   Levofloxacin (d4)
   Infusions:
   Other ICU medications:
   Heparin Sodium SC bid
   Prilosec
   Other medications:
   Prednisone 5mg qd
   Amiodarone 300mg qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2190-1-10**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 127 (102 - 130) bpm
   BP: 119/73(84) {89/13(46) - 131/75(84)} mmHg
   RR: 23 (18 - 42) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,830 mL
                                                                    149 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,230 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    155 mL
   Urine:
                                                                    760 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  1,060 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93% 3.5L NC
   ABG: ///31/
   Physical Examination
   Resting comfortably
   Lungs clearly anteriorly on L, diminished/bronchial BS on R
   Nl s1s2, regular, tachy
   Abd soft, NT, ND, +BS
   Ext warm, no sig edema, +clubbing
   Labs / Radiology
   13.0 g/dL
   317 K/uL
   82 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   10 mg/dL
   102 mEq/L
   138 mEq/L
   37.5 %
   10.7 K/uL
        [image002.jpg]
                            [**2190-1-6**]  11:23 PM
                            [**2190-1-7**]  03:21 PM
                            [**2190-1-7**]  04:39 PM
                            [**2190-1-7**]  10:20 PM
                            [**2190-1-8**]  02:56 AM
                            [**2190-1-8**]  11:42 AM
                            [**2190-1-8**]  05:06 PM
                            [**2190-1-9**]  05:27 AM
                            [**2190-1-10**]  02:46 AM
   WBC
   7.0
   8.6
   8.9
   9.5
   10.9
   10.7
   Hct
   31.5
   31.7
   42.4
   40.5
   41.2
   41.8
   37.5
   Plt
   [**Telephone/Fax (3) 3241**]
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.7
   0.5
   TCO2
   34
   Glucose
   125
   95
   131
   151
   135
   138
   82
   Other labs: PT / PTT / INR:14.9/23.9/1.3, ALT / AST:41/23, Alk Phos / T
   Bili:60/0.4, Differential-Neuts:84.0 %, Lymph:10.5 %, Mono:4.9 %,
   Eos:0.3 %, Albumin:3.2 g/dL, LDH:291 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   [**1-7**]
 bld cxs w/CNS
   [**1-8**], [**1-9**] bld cxs NGTD
   Portable CXR
 no significant change c/w [**1-8**]
   Assessment and Plan
   71 yo F w/hemoptysis, advanced NSCLC c/b pericardial invasion,
   impingement on mainstem bronchus, a/w pericardial tamponade now s/p
   pericardiocentesis c/b RV puncture.  BP stable post drainage, though
   tachycardic.  Plan home w/hospice in near future.
   -Pericardial effusion- pericardial drain removed yest, f/u TTE today.
   -Hemoptysis- s/p R bronchial artery embolization [**1-8**], recurrent
   minimal blood tinged sputum today- will monitor.  IP planning flex
   bronch tomorrow.
   -NSCLC- palliative care following.  On prednisone for ?adrenal mets and
   AI- BP ok.
   -Hypoxemia- empiric Levofloxacin for ?pna- complete 8d course.  Cont
   supppl O2 for goal sat >92%.
   -Afib w/RVR- now in ST s/p amio bolus, completing PO load.
   -CNS Bacteremia- cont vanco, can d/c tomorrow if surveillance cxs
   remain negative (suspect contaminant).
   -FEN- regular diet.
   -Dispo- hopefully home w/hospice tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2190-1-9**] 09:35 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: Prilosec
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :  Call out to medicine
   Total time spent: 30min